* C:\Users\lucasp\Projects\CMOS-project\edge-triggered_PWM_generator.asc
* Generated by LTspice 26.0.1 for Windows.
I1 N001 N002 {Iref}
V1 VDD 0 3.3 Rser=0
R1 N001 N002 10G
V2 CLK 0 PULSE(0 3.3 1u 1n 1n 5u 10u) Rser=0
C_load output 0 2p
M1 NC_01 NC_02 NC_03 NC_04 NMOS_SME
M2 NC_05 NC_06 NC_07 NC_08 PMOS_SME
X§U3 N004 N005 VDD 0 my_inverter ;§pnba IN)OUT)VDD)VSS
X§U4 N005 N006 VDD 0 my_inverter ;§pnba IN)OUT)VDD)VSS
X§U5 N006 CLK NC_09 VDD 0 my_xor ;§pnba A)B)OUT)VDD)VSS
X§U2 N003 N004 VDD 0 my_inverter ;§pnba IN)OUT)VDD)VSS
X§U1 CLK N003 VDD 0 my_inverter ;§pnba IN)OUT)VDD)VSS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucasp\AppData\Local\LTspice\lib\cmp\standard.mos
.param Iref 1uA
.inc library.mod
.tran 0 20u 0 20n
* Edge-triggered Pulse-Width Modulation (PWM) generator
* rise/fall time (10% -> 90%)\nshould be below 10 ns
* Sweep Iref in {1uA, 3uA, 5uA, 7uA, 9uA}
* Explain which electrical parameters define the output pulse-width
* 100kHz input clock
* Lucas Placentino 2026
* 1. edge detector (both rising and falling)
.backanno
.end
